US05668147
Reference Example 6 wherein Z is the same as the above. a) Trans-1-benzyloxycarbonyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester
In 150 ml of ethanol, is dissolved 15.0 g (49.8 mmol) of trans-1-benzyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester. To the above solution, are added 6 ml of conc-hydrochloride and then 3 g of 10% palladium carbon. The mixture is stirred at 40° C. and 1 atmospheric pressure to perform a hydrogenation. Four hours later, the catalyzer is removed by filtration. The filtrate is concentrated under reduced pressure, and the residue was dissolved in 60 ml of water. To the solution, is added 11 g (131 mmol) of sodium bicarbonate. Further, 10.2 g (59.8 mmol) of benzylchloroformate is added to the above solution on cooling with ice. The mixture is stirred at 0° C. for 1 hour and then at room temperature for 11 hours. The reaction mixture is extracted with 150 ml of diethyl ether. The organic phase is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The dried organic phase is concentrated under reduced pressure. The residue was purified with silica gel column chromatography (elusion solvent; n-hexane/ethyl acetate (10/1→5/1)) to give 15.87 g of the objective substance as a colorless oily matter (yield 92.3%).

reactant | trans-1-benzyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester | 49.8 mmol, 15.0 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(F)(F)F)CC1=CC=CC=C1 | C15H18F3NO2
reactant | hydrochloride | Cl | ClH
reactant | sodium bicarbonate | 131 mmol, 11 g | C([O-])(O)=O.[Na+]
reactant | benzylchloroformate | 59.8 mmol, 10.2 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium carbon | 3 g | [C].[Pd]
product | Trans-1-benzyloxycarbonyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester | yield 92.3% | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C16H18F3NO4
